US07994185B2
2,6-Difluoro-N-{2-fluoro-5-[2-(1-methylethyl)-5-(2-{[2-(methylsulfonyl)ethyl]amino}-4-pyrimidinyl)-1,3-thiazol-4-yl]phenyl}benzenesulfonamide
Following a procedure analogous to the procedure described in Example 1 using N-{5-[5-(2-chloro-4-pyrimidinyl)-2-(1-methylethyl)-1,3-thiazol-4-yl]-2-fluorophenyl}-2,6-difluorobenzenesulfonamide (3.0 g, 5.71 mmol) and 2-aminoethyl-methyl-sulfone (2.82 g, 22.86 mmol), the title compound was obtained as a white solid (1.9 g, 53% yield). 1H NMR (400 MHz, DMSO-d6) δ ppm 10.93 (s, 1H), 8.14 (d, J=5.0 Hz, 1H), 7.67-7.77 (m, 1H), 7.48 (t, J=5.5 Hz, 1H), 7.38-7.46 (m, 2H), 7.28 (q, J=9.2 Hz, 3H), 6.22-6.31 (m, 1H), 3.62-3.73 (m, 2H), 3.34-3.40 (m, 2H), 3.25-3.30 (m, 1H), 3.02 (s, 3H), 1.36 (d, J=6.9 Hz, 6H). MS (ESI): 612.2 [M+H]+.

reactant | N-{5-[5-(2-chloro-4-pyrimidinyl)-2-(1-methylethyl)-1,3-thiazol-4-yl]-2-fluorophenyl}-2,6-difluorobenzenesulfonamide | 5.71 mmol, 3.0 g | ClC1=NC=CC(=N1)C1=C(N=C(S1)C(C)C)C=1C=CC(=C(C1)NS(=O)(=O)C1=C(C=CC=C1F)F)F | C22H16ClF3N4O2S2
reactant | 2-aminoethyl-methyl-sulfone | 22.86 mmol, 2.82 g | NCCS(=O)(=O)C | C3H9NO2S
product | 2,6-Difluoro-N-{2-fluoro-5-[2-(1-methylethyl)-5-(2-{[2-(methylsulfonyl)ethyl]amino}-4-pyrimidinyl)-1,3-thiazol-4-yl]phenyl}benzenesulfonamide | FC1=C(C(=CC=C1)F)S(=O)(=O)NC1=C(C=CC(=C1)C=1N=C(SC1C1=NC(=NC=C1)NCCS(=O)(=O)C)C(C)C)F | C25H24F3N5O4S3
